US07211573B2
7.05 g (30.2 mmol) 2-tert-Butoxycarbonylamino-3-hydroxy-pentanoic acid in 7 ml dimethylformamide were added at 0° C. to 2.80 g (64.1 mmol) sodium hydride (55%) in 56 ml dimethylformamide. The suspension was stirred for 2 hours and then 3.54 ml (33.2 mmol) 1-fluoro-2-nitrobenzene were added. After stirring for 2 days the mixture was poured on ice/water and extracted with diethylether. The pH was adjusted to 1 by adding aqueous hydrochloric acid. Extraction with ethylacetate and chromatography on silicagel with ethylacetate/heptane 1/1 yielded 6.03 g (56%) 2-tert-butoxycarbonylamino-3-(2-nitro-phenoxy)-pentanoic acid as orange oil, MS m/e (%): 353.4 (M−H, 100).

reactant | 2-tert-Butoxycarbonylamino-3-hydroxy-pentanoic acid | 30.2 mmol, 7.05 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C(CC)O | C10H19NO5
reactant | sodium hydride | 64.1 mmol | [H-].[Na+]
reactant | 1-fluoro-2-nitrobenzene | 33.2 mmol, 3.54 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 56 ml | CN(C=O)C | C3H7NO
product | 2-tert-butoxycarbonylamino-3-(2-nitro-phenoxy)-pentanoic acid | 6.03 g, 56% | C(C)(C)(C)OC(=O)NC(C(=O)O)C(CC)OC1=C(C=CC=C1)[N+](=O)[O-] | C16H22N2O7
